US07169778B2
5. 6-(3,5-Dibromopyridin-4-yl)-8-methyl-2-[[4-(morpholin-4-yl)phenyl]amino]-8H-pteridin-7-one
A mixture of 0–30 g (1 mmol) of 5-amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]pyrimidine, 0.67 g (2 mmol) of ethyl 2-(3,5-dibromopyridin-4-yl)-2-oxoacetate (from preparation 17), and 0.5 mL of HOAc in 15 mL of 2-methoxyethanol is heated under reflux for 18 hours. Workup in EtOAc, followed by chromatography on silica, eluting with CH2Cl2/EtOAc (4:1), gives 0.15 g (26%) of the title compound (Compound 19): mp (EtOH) 204–206° C.

reactant | 5-amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]pyrimidine | 1 mmol, 0–30 g | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCOCC1)NC | C15H20N6O
reactant | ethyl 2-(3,5-dibromopyridin-4-yl)-2-oxoacetate | 2 mmol, 0.67 g | BrC=1C=NC=C(C1C(C(=O)OCC)=O)Br | C9H7Br2NO3
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | 2-methoxyethanol | 15 mL | COCCO | C3H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(3,5-Dibromopyridin-4-yl)-8-methyl-2-[[4-(morpholin-4-yl)phenyl]amino]-8H-pteridin-7-one | 0.15 g, 26% | BrC=1C=NC=C(C1C1=NC=2C=NC(=NC2N(C1=O)C)NC1=CC=C(C=C1)N1CCOCC1)Br | C22H19Br2N7O2
